US06994941B2
Into a 1 liter three-necked reaction vessel fitted with a cooling tube and a mechanical stirrer, 88.5 g (0.2 mol) of (4′-(bromobiphenyl-4-yl)-(2,4-dimethylphenyl)-p-tolylamine, 26.7 g (0.22 mol) of 2,4-dimethylphenylamine, 2.2 g (0.01 mol) of palladium acetate, 11.1 g (0.02 mol) of bis(diphenylphosphino)ferrocene, 26.8 g (0.28 mol) of tert-butoxysodium and 400 mL of xylene were introduced to effect reflux for 5 hours in a nitrogen gas atmosphere and with heating in an oil bath. After the reaction was completed, the reaction mixture was left to cool to room temperature, followed by extraction with toluene/water, then washing with hydrochloric acid water, and thereafter distillation of the organic layer under reduced pressure and purification with a silica gel column (developer solvent: hexane/toluene=1:1) to give the desired N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine. The compound obtained was in a yield of 71.4 g corresponding to 74%. The compound obtained was measured with the same elementary analyzer as the above.

reactant | 2,4-dimethylphenylamine | 0.22 mol, 26.7 g | CC1=C(C=CC(=C1)C)N | C8H11N
reactant | tert-butoxysodium | 0.28 mol, 26.8 g | C(C)(C)(C)O[Na]
reactant | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium acetate | 0.01 mol, 2.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | bis(diphenylphosphino)ferrocene | 0.02 mol, 11.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N4,N4′-bis(2,4-dimethylphenyl)-N4-p-tolylbiphenyl-4,4′-diamine | CC1=C(C=CC(=C1)C)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=C(C=C(C=C1)C)C)C1=CC=C(C=C1)C | C35H34N2
